US05034547
Preparation of 1-n-octylsulfonylamino-5-chloroanthraquinone.
1,5-dichloroanthraquinone (1.0g), n-octanesulfonamide (0.77g), potassium carbonate (1.0g), cupric acetate monohydrate (1.0g) and chlorobenzene (15ml) were refluxed for 4 hours. The solvent was evaporated at reduced pressure and the residue was extracted with toluene. After filtration the extract was separated by chromatography on silica using toluene as eluent to give the desired product as the second fraction.

reactant | 1,5-dichloroanthraquinone | 1.0g | ClC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | n-octanesulfonamide | 0.77g | CCCCCCCCS(=O)(=O)N | C8H19NO2S
reactant | potassium carbonate | 1.0g | C([O-])([O-])=O.[K+].[K+]
solvent | chlorobenzene | 15ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-n-octylsulfonylamino-5-chloroanthraquinone | C(CCCCCCC)S(=O)(=O)NC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)Cl)=O | C22H24ClNO4S
